Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
dapsone
 
Attending: ___.
 
Chief Complaint:
Headache, Nausea, Vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo female with a history of MDS ___ Allogenic MUD Stem Cell
Transplant who is admitted with a headache. The patient states
her headache started yesterday morning. It was a right sided
headache which came down into her face. It intensified 
throughout
the day and then in the afternoon she started vomiting numerous
times. Which prompted her to go to the ED. She states the
headache was similar in location to when she gets migraines but
the duration was different and with migraines she usually gets
one episode of nausea in the morning and then it resolves. She
denies any neck stiffness, rashes, or fevers. She also denies 
any
shortness of breath, diarrhea, or dysuria. 
She went to the ED last night and had a head CT done which was 
unremarkable. She was then given Tylenol, dexamethasone,
Benadryl, IV fluids, and Compazine. With improvement of her
symptoms. She then was discharged home early this morning. 
Her primary oncology team was concerned about the underlying
cause of her headache given her history of a recent bone marrow
transplant and that she is on immunosuppression. So she was
instructed to return for admission for further workup. 
 
Past Medical History:
- Treatment-Related MDS after transformed follicular lymphoma
- CVID, received IVIG monthly; last given ___
- GERD                                          
- Osteoarthritis                                         
- DVT, right lower extremity, IVC filter in place
- Cervical radiculopathy
- Sciatica
- Obstructive sleep apnea, wears CPAP
- H/O cerebral aneurism, noted on MRA with small R internal
carotid cavernous sinus aneurysm; coil placed in the aneurysm
(___).  On Neurontin.  Exam notable for slight CN 6 palsy of
the right eye, mild proptosis of the right eye, and hyperthesia
of the right V1 distribution
- Asthma
- Obesity
- Hypertension
- Migraines
- + RSV, ___
- History of osteomyelitis with IV antibioitcs for 6
weeks. 
 
Social History:
___
Family History:
Brother with lymphoma, died at age ___. Father had CAD and DM. 
Mother had CHF.

 
Physical Exam:
ADMISSION PHYSICAL
==================
VS -T 98.1, BP 122/77, P 86, RR 18, O2 sat 98% RA
General: No acute distress, sitting completely comfortably in a
chair
HEENT: MMM, no scleral icterus, no OP lesions, no cervical LAD
CV: RRR, +S1/S2 present
Lungs: CTAB, no W/R/R
Abdomen: Soft, nontender, nondistended, +BS
Ext: 2+ peripheral edema in left lower extremity, 1+ peripheral
edema in right lower extremity, 2+ DPs
Neuro: A&O3, grossly symmetric upper and lower extremity
strength and sensation
Skin: No obvious rashes

DISCHARGE PHYSICAL
==================
VS:  98.6 131 / 81 93 18 96 Ra 
General: No acute distress, lying comfortably in bed
HEENT: Hematoma and ecchymosis in occipital region of head,
improving; MMM, no scleral icterus, no OP lesions, no cervical
LAD
CV: RRR, +S1/S2 present
Lungs: CTAB, no W/R/R
Abdomen: Soft, nontender, nondistended, +BS
Ext: Edema over the radial aspect of the left wrist improving, 
1+
peripheral edema in bilateral lower extremity, venous stasis
dermatitis bilaterally on lower extremities, 1+ DPs
Neuro: A&O3, grossly symmetric upper and lower extremity
strength and sensation
Skin: No obvious rashes

 
Pertinent Results:
ADMISSION LABS
==============
___ 11:17PM BLOOD WBC-2.8* RBC-3.37* Hgb-11.7 Hct-35.3 
MCV-105* MCH-34.7* MCHC-33.1 RDW-15.6* RDWSD-60.3* Plt ___
___ 11:17PM BLOOD Neuts-87* Bands-2 Lymphs-9* Monos-1* 
Eos-1 Baso-0 ___ Myelos-0 AbsNeut-2.49 AbsLymp-0.25* 
AbsMono-0.03* AbsEos-0.03* AbsBaso-0.00*
___ 11:17PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-OCCASIONAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL 
Ovalocy-OCCASIONAL Tear Dr-OCCASIONAL
___ 11:17PM BLOOD Plt Smr-LOW* Plt ___
___ 11:17PM BLOOD ALT-25 AST-26 AlkPhos-82 TotBili-0.3
___ 11:17PM BLOOD Glucose-112* UreaN-16 Creat-1.1 Na-139 
K-4.2 Cl-104 HCO3-21* AnGap-14
___ 11:17PM BLOOD Lipase-11
___ 11:17PM BLOOD Albumin-3.6
___ 11:22PM BLOOD Lactate-1.1

DISCHARGE LABS
==============
___ 12:00AM BLOOD WBC-2.0* RBC-3.11* Hgb-10.5* Hct-32.2* 
MCV-104* MCH-33.8* MCHC-32.6 RDW-15.5 RDWSD-58.2* Plt ___
___ 12:00AM BLOOD Glucose-96 UreaN-16 Creat-1.2* Na-141 
K-4.0 Cl-103 HCO3-24 AnGap-14
___ 12:00AM BLOOD ALT-16 AST-23 LD(LDH)-369* CK(CPK)-24* 
AlkPhos-86 TotBili-0.2
___ 12:00AM BLOOD Albumin-3.4* Calcium-8.3* Phos-3.5 Mg-2.2
___ 09:21AM BLOOD Cyclspr-184

MICROBIOLOGY
=============
___ 12:00 am BLOOD CULTURE      Source: Line-poc. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPHYLOCOCCUS EPIDERMIDIS.    FINAL SENSITIVITIES. 
         COAG NEG STAPH does NOT require contact precautions, 
regardless of
         resistance Oxacillin RESISTANT Staphylococci MUST be 
reported as
         also RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         RIFAMPIN should not be used alone for therapy. 
         Daptomycin AND LINEZOLID Susceptibility testing 
requested by ___.
         ___ (___) ON ___. 
         Daptomycin MIC OF 0.5 MCG/ML = SUSCEPTIBLE , test 
result performed
         by Etest. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPHYLOCOCCUS EPIDERMIDIS
                             |   
CLINDAMYCIN-----------   =>8 R
DAPTOMYCIN------------       S
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
LINEZOLID-------------     2 S
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
VANCOMYCIN------------     1 S

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 
      Reported to and read back by ___ (___) @ ___ ON 
___. 

___ 10:36 pm BLOOD CULTURE     Site: ARM

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPHYLOCOCCUS EPIDERMIDIS.    FINAL SENSITIVITIES. 
         COAG NEG STAPH does NOT require contact precautions, 
regardless of
         resistance. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         RIFAMPIN should not be used alone for therapy. 
         Daptomycin AND LINEZOLID Susceptibility testing 
requested by ___.
         ___ (___) ON ___. 
         Daptomycin MIC OF 0.50 MCG/ML = SUSCEPTIBLE , test 
result
         performed by Etest. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPHYLOCOCCUS EPIDERMIDIS
                             |   
CLINDAMYCIN-----------   =>8 R
DAPTOMYCIN------------       S
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
LINEZOLID-------------     1 S
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
VANCOMYCIN------------     1 S

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 
      Reported to and read back by ___ (___) @ ___ 
ON ___. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 

___ 10:08 pm BLOOD CULTURE      Source: Line-poc. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPHYLOCOCCUS EPIDERMIDIS.    FINAL SENSITIVITIES. 
         COAG NEG STAPH does NOT require contact precautions, 
regardless of
         resistance. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         RIFAMPIN should not be used alone for therapy. 
         Daptomycin AND LINEZOLID Susceptibility testing 
requested by ___.
         ___ (___) ON ___. 
         Daptomycin MIC OF 0.5 MCG/ML = SUSCEPTIBLE , test 
result performed
         by Etest. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPHYLOCOCCUS EPIDERMIDIS
                             |   
CLINDAMYCIN-----------   =>8 R
DAPTOMYCIN------------       S
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
LINEZOLID-------------     1 S
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
VANCOMYCIN------------ <=0.5 S

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 
      Reported to and read back by ___ (___) @ ___ 
ON ___. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 

___ 12:40 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 9:11 am BLOOD CULTURE      Source: Line-PORT. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING
=========
CT HEAD W/O CONTRAST (___):
IMPRESSION: 
1. Evaluation limited by artifact from high-density metallic 
material the area 
of the right carotid siphon. 
2. No acute intracranial abnormality. 

MR HEAD W/ & W/O CONTRAST (___):
IMPRESSION: 
1. No acute intracranial process.  No abnormal enhancement after 
contrast 
administration. 
2. Susceptibility artifact from prior coiling in the region of 
the right 
cavernous internal carotid artery limits evaluation in that 
area. 

CT HEAD W/O CONTRAST (___):
IMPRESSION: 
1. Mildly limited study due to streak artifact from metallic 
density in the 
region of the right carotid siphon. 
2. No acute intracranial abnormality or fracture. 
3. Soft tissue swelling and hematoma overlying the inferior left 
occiput, and 
centrally near the vertex. 

CT C-SPINE W/O CONTRAST (___):
IMPRESSION: 
1. No acute fracture or new alignment abnormality. 
2. Multilevel degenerative changes and levels of congenital 
fusion, grossly 
unchanged and better described on the prior MRI from ___. 

WRIST (3+ VIEWS) LEFT (___):
IMPRESSION:  
No acute fracture or dislocation.  Mild widening of the distal 
radioulnar 
joint. 

CT ABD & PELVIS WITH CONTRAST (___):
IMPRESSION:  
1.  No infectious source identified in the abdomen or pelvis. 
2.  Mild intrahepatic and extrahepatic biliary dilatation, 
likely post 
cholecystectomy. 
3.  Tiny nonocclusive thrombus in the IVC, above the IVC filter. 
 Some of the 
filter struts have penetrated the vessel wall, not uncommonly 
seen.  Given 
that this is a retrievable filter, interventional radiology 
consultation could 
be considered for filter removal if it is no longer needed. 
4.  Decrease in size of a now 2.8 x 2.2 cm right adnexal cyst, 
which dates 
back to at least ___.  Consider periodic follow-up with pelvic 
ultrasound to 
document expected continued stability. 

CT CHEST W/ CONTRAST (___):
IMPRESSION:  
1.  No evidence of pneumonia. 
2.  Enlarged pulmonary artery may be seen in pulmonary arterial 
hypertension. 

UNILAT UP EXT VEINS US LEFT (___):
IMPRESSION:  
No evidence of deep vein thrombosis in the left upper extremity. 


TTE (___):
Conclusions   
 The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thicknesses 
and cavity size are normal. There is mild global left 
ventricular hypokinesis. Quantitative (biplane) LVEF = 39 %. 
Right ventricular chamber size and free wall motion are normal. 
The aortic valve leaflets (3) appear structurally normal with 
good leaflet excursion. No masses or vegetations are seen on the 
aortic valve. Trace aortic regurgitation is seen. The mitral 
valve leaflets are structurally normal. There is no mitral valve 
prolapse. No mass or vegetation is seen on the mitral valve. 
Mild (1+) mitral regurgitation is seen. The pulmonary artery 
systolic pressure could not be determined. There is no 
pericardial effusion. 

 IMPRESSION: Normal biventricular cavity sizes with mild global 
left ventricular hypokinesis. Mild mitral regurgitation with 
normal valve morphology. Trace aortic regurgitation with normal 
valve morphology. 

 Compared with the prior report (images not available for 
review) of ___, trace aortic regurgitation is now present 
with similar valve morphology.   

BILAT LOWER EXT VEINS (___):
IMPRESSION: 
1. New deep venous thrombosis involving the left posterior 
tibial and right 
popliteal veins. 
2. No fluid collection in the area of pain in the left lateral 
calf. 

 
Brief Hospital Course:
Ms. ___ is a ___ immunocompromised female ___ 
alloSCT for secondary MDS admitted for acute change in headaches 
with new, severe symptoms such as nausea and vomiting now with 
fevers to 103 and coagulase-negative gram-positive cocci in 
clusters in blood cultures being treated for S. epidermidis 
bacteremia.

#Headache
CT head performed in the ED ___ was unremarkable but infectious 
etiology remained very high on the
differential given the patient's immunosuppression regimen and 
history of aseptic meningitis during her last admission. She 
also had history of R internal carotid cavernous sinus aneurysm 
with coiling in the past. An MRI head ___ was unremarkable. CMV, 
EBV, HSV, HHV6, adeno, ___, arboviruses, Lyme, 
crypotococcus, and fungal markers were tested and all were 
negative. The patient's headache resolved and she was symptom 
free at time of discharge. 

#S. epidermidis Bacteremia
She had fevers up to 103 on ___ and was started on vancomycin 
and cefepime. The vancomycin was DC'd ___ overnight and she was 
started on linezolid per ID recommendations as she had a history 
of VRE bacteremia in the past and was continued on cefepime. ___ 
blood culture bottles grew S. epidermidis and she was narrowed 
to vancomycin only. A chest x-ray was unremarkable for 
pneumonia. A CT chest ___ revealed no evidence of pneumonia. A 
CT abdomen pelvis ___ did not show any evidence of infection. An 
ultrasound of her port site was without evidence of infection. 
An ultrasound of her LLE ordered for concern of an abscess 
revealed a distal DVT but no fluid collections. A TTE revealed 
normal biventricular cavity sizes with mild global left 
ventricular hypokinesis, mild mitral regurgitation with normal 
valve morphology and trace aortic regurgitation with normal 
valve morphology. A TEE was scheduled but was cancelled as 
patient will need 6 weeks of therapy for treatment of possible 
septic thrombophlebitis. She was continued on Vancomycin until 
___ and was transitioned to Daptomycin on ___ as her 
Vancomycin level fluctuated frequently throughout her 
hospitalization, making dosing of the medication challenging. 
She will need to remain on Daptomycin until ___ to complete 6 
weeks of antibiotic therapy.

#Mechanical Fall
Patient had a mechanical fall during the evening of ___. She 
became incontinent of urine and slipped and fell while trying to 
make it to the bathroom. CT head and C spine were unremarkable. 
X rays of her left wrist revealed no fractures. She was given a 
hard brace based on an OT evaluation. Ecchymosis on head was 
improving at discharge. She will continue to wear the brace 
until symptoms improve.

#MDS ___ Allo MUD SCT
She was conditioned with Flu/Bu/ATG RI and was on cyclosporine 
for immunosuppression. Her home cyclosporine dosage was 75mg QAM 
and 50mg QPM. Initial cyclosporine levels were low and her 
dosage was increased to 100mg BID. Her creatinine increased on 
this dose and she was discharged on dosage of 75mg BID. Her home 
prophylaxis with fluconazole, Bactrim, and valganciclovir was 
initially continued. However, given worsening neutropenia, her 
Bactrim was transitioned to atovaquone and her valganciclovir 
was transitioned to acyclovir. She was scheduled to have a bone 
marrow biopsy with ___ as an outpatient on ___ but this was 
cancelled due to patient's new DVT. She will need to have a bone 
marrow biopsy done as an outpatient.

#DVT
Enoxaparin was held ___ for possible LP but a US LLE 
performed due to the concern of an abscess revealed a new distal 
DVT on ___ in LLE. LP was deferred due to resolution of her 
headache and lack of neurologic symptoms and she was put on a 
therapeutic dose of Enoxaparin. Her lower extremity swelling 
improved and she was discharged on Enoxaparin 80mg BID.

___
She presented with Cr above baseline at 1.7 No casts were 
visualized on UA and she had a FENa of 1.7% on ___, indicating 
prerenal etiology. She was given fluids and her creatinine 
returned to baseline. Her Cr increased again on ___ to 1.4. She 
was again given IVF and her cyclosporine was decreased from 
100mg BID to 75mg BID. Cr at discharge improved to 1.2.

#Asthma
Albuterol and duonebs were given as needed

TRANSITIONAL ISSUES
===================
[] Follow up with Dr. ___ on ___
[] Continue daptomycin and Vancomycin/heparin locks until ___.
[] Will need to get weekly CK levels while on daptomycin.
[] Repeat bone marrow biopsy scheduled for ___ was cancelled 
given new DVT and infection. Will need repeat bone marrow biopsy 
scheduled.

CODE STATUS: FULL CODE
HCP: ___ (Husband) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN cough 
2. Fluconazole 400 mg PO Q24H 
3. FoLIC Acid 1 mg PO DAILY 
4. Gabapentin 400 mg PO BID 
5. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN SOB, wheeze 
6. LORazepam 0.5-1 mg PO Q6H:PRN anxiety,nausea or vomiting if 
not relieved by ondansetron 
7. Multivitamins 1 TAB PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Ondansetron 4 mg PO Q8H:PRN nausea 
10. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
11. Venlafaxine 25 mg PO DAILY 
12. ValGANCIclovir 450 mg PO Q24H 
13. CycloSPORINE (Neoral) MODIFIED 75 mg PO QAM 
14. Enoxaparin Sodium 100 mg SC DAILY 
15. CycloSPORINE (Neoral) MODIFIED 50 mg PO QPM 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q8H  
2.  Atovaquone Suspension 1500 mg PO DAILY 
RX *atovaquone 750 mg/5 mL 10 ml by mouth daily Disp #*300 
Milliliter Refills:*0 
3.  Daptomycin 500 mg IV Q24H 
RX *daptomycin 500 mg 1 vial daily Disp #*34 Vial Refills:*0 
4.  Nystatin Cream 1 Appl TP BID  
5.  Vancomycin-Heparin Lock ___AILY  
6.  CycloSPORINE (Neoral) MODIFIED 75 mg PO Q12H  
7.  Enoxaparin Sodium 80 mg SC Q12H 
RX *enoxaparin 80 mg/0.8 mL 80 mg twice a day Disp #*60 Syringe 
Refills:*0 
8.  Albuterol Inhaler ___ PUFF IH Q4H:PRN cough  
9.  Fluconazole 400 mg PO Q24H  
10.  FoLIC Acid 1 mg PO DAILY  
11.  Gabapentin 400 mg PO BID  
12.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN SOB, wheeze  
13.  LORazepam 0.5-1 mg PO Q6H:PRN anxiety,nausea or vomiting if 
not relieved by ondansetron  
14.  Multivitamins 1 TAB PO DAILY  
15.  Omeprazole 20 mg PO DAILY  
16.  Ondansetron 4 mg PO Q8H:PRN nausea  
17.  Venlafaxine 25 mg PO DAILY  
18.vancomycin lock
Vancomycin-Heparin Lock ___AILY 
Vancomycin 2 mg/mL + Heparin 100 units/mL
5mL solution daily
Dispense 170mL solution
Continue until ___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
Headache
S. epidermidis Bacteremia
Mechanical Fall
Secondary MDS ___ AlloSCT
GERD
OSA
Sciatica

SECONDARY DIAGNOSES
===================
CVID
DVT
Asthma
Pre-HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you in the hospital!

Why was I admitted to the hospital?
You were admitted to the hospital because you were experiencing 
headaches, concerning for possible infection in or around your 
brain.

What happened while I was admitted in the hospital?
-Your headache resolved on its own
-Imaging studies were done to evaluate your headache and did not 
demonstrate any clear cause
-Numerous tests were conducted on your blood and you were found 
to have a bacterial infection of your blood
-Imaging studies were performed to find the source of the 
bacteria and no clear source was found
-You were started on antibiotics to treat your bacterial 
infection
-Imaging of your leg showed you had a clot in your leg
-Your home Bactrim and Valganciclovir were discontinued and you 
were started on Atovaquone and Acyclovir.

What should I do after I get discharged from the hospital?
-Take all of your medications as prescribed, details below
-Keep all of your scheduled appointments 

We wish you the very best!

Your ___ Oncology Team
 
Followup Instructions:
___